* PYTHON 1300 camera board - power tree sequencing verification (LTspice)
*
* REAL TI MODELS: TPS7A20 (SBVM961) x3 LDOs, TLV803S (SBVM034) x2 supervisors
* BOOST: behavioural stand-in CALIBRATED against TI's TPS61023 model (SLVMD68),
*        which was run separately and gave: Vout 4.506 V, startup ~450 us,
*        peak IL 544 mA, true input-output disconnect.
*        (The switching model is ~20 s per ms of sim -- too slow for a 285 ms run.)
* SENSOR: no public SPICE model exists. It is a LOAD (datasheet currents) plus the
*        board's real decoupling.
* NOTE: TI's TPS7A20 model does NOT include the 150-ohm auto-discharge that the
*        datasheet specifies when EN is low. Our power-down ordering DEPENDS on it,
*        so it is added explicitly below (S_d2/S_d4/S_d5).
*
.include tps7a20.lib
.include tlv803s.lib

*==================== the Pt's +3V3 rail ==========================
* up at 1 ms, hold, then collapse (USB unplug) from 260 ms
Vsys vsys 0 PWL(0 0  1m 3.278  300m 3.278  300.5m 2.50  306m 2.50  306.5m 3.278  700m 3.278)

*==================== U2 : TPS7A2018 -> vdd_18 (EN tied to +3V3) ==
XU2  vsys 0 vsys nc2 v1v8 TPS7A20_ADJ_TRANS PARAMS: V_out=1.8
S_d2 v1v8 0 0 vsys SWDIS
Cin2 vsys 0 1u

*==================== U3 : boost -> +4V5 (calibrated stand-in) ====
* hysteretic EN: ON >1.2 V, OFF <0.35 V (datasheet). Needs VIN alive (>0.5 V) --
* the TPS61023 keeps running down to 0.5 V VIN, which is exactly why U7 exists.
Vone one 0 1
S_en one enq en_boost 0 SWEN
R_enq enq 0 1Meg
B_ok  en_ok 0 V = if( V(enq)>0.5 & V(vsys)>0.5, 1, 0 )
R_ss  en_ok ss 15k
C_ss  ss 0 10n
B_bst bint 0 V = 4.506 * min(V(ss),1)
S_dc  bint v4v5 en_ok 0 SWDC
Cb1   v4v5 0 20u

*==================== U4 : TPS7A2033 -> vdd_33 (EN from vdd_18) ===
XU4  v4v5 0 v1v8 nc4 v33 TPS7A20_ADJ_TRANS PARAMS: V_out=3.3
S_d4 v33 0 0 v1v8 SWDIS
Cin4 v4v5 0 1u

*==================== U5 : TPS7A2033 -> vdd_pix (EN from EN_PIX) ==
XU5  v4v5 0 en_pix nc5 vpix TPS7A20_ADJ_TRANS PARAMS: V_out=3.3
S_d5 vpix 0 0 en_pix SWDIS
Cin5 v4v5 0 1u

*==================== U6 : supervisor -> EN_PIX ===================
* R15 pull-up goes to vdd_33, NOT +3V3.  *** THIS IS THE INTERLOCK ***
* Before vdd_33 exists the pull-up sits at 0 V, so vdd_pix CANNOT enable early.
XU6  0 en_pix vsys TLV803S_TRANS
R15  en_pix v33 100k
C39  en_pix 0 10n

*==================== U7 : supervisor -> EN_BOOST =================
XU7  0 rst_boost vsys TLV803S_TRANS
R16  rst_boost vsys 100k
R17  rst_boost en_boost 1k
C41  en_boost 0 220n

*==================== sensor: loads + real board decoupling =======
Rl33  v33  0 23.57
Rl18  v1v8 0 22.5
Rlpix vpix 0 660
C33   v33  0 15.04u
C18   v1v8 0 14.03u
* vdd_pix budget deliberately ~1.5uF so the 150-ohm discharge collapses it FIRST
Cpix  vpix 0 1.54u

.model SWDIS SW(Vt=-0.3 Vh=0.02 Ron=150 Roff=1G)
.model SWEN  SW(Vt=0.775 Vh=0.425 Ron=1 Roff=1G)
.model SWDC  SW(Vt=0.5 Vh=0.1 Ron=0.05 Roff=1G)

.save V(vsys) V(v4v5) V(v1v8) V(v33) V(vpix) V(en_pix) V(en_boost)
.options plotwinsize=0
.tran 0 700m 0 20u

* ==== DURING THE DIP: must collapse vdd_pix -> vdd_33, and vdd_18 must SURVIVE ====
.meas tran d_tpix WHEN V(vpix)=2.97 FALL=1 TD=299m
.meas tran d_t33  WHEN V(v33)=2.97  FALL=1 TD=299m
.meas tran d_gap  PARAM d_t33-d_tpix
.meas tran d_v18min MIN V(v1v8) FROM=299m TO=307m
.meas tran d_vpixmin MIN V(vpix) FROM=299m TO=307m

* ==== RECOVERY: must come back vdd_18 -> vdd_33 -> vdd_pix ====
.meas tran r_t33  WHEN V(v33)=2.97  RISE=1 TD=307m
.meas tran r_tpix WHEN V(vpix)=2.97 RISE=1 TD=307m
.meas tran r_gap  PARAM r_tpix-r_t33

* ==== did the supervisor chatter? count EN_BOOST crossings ====
.meas tran en_final FIND V(en_boost) AT=690m
.meas tran v33_final FIND V(v33) AT=690m
.meas tran vpix_final FIND V(vpix) AT=690m
.meas tran v18_final FIND V(v1v8) AT=690m
.end
